US07173031B2
A) 4-(2-Fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-chloro-1H-pyrrolo[2,3-b]pyridine (457 mg, 3.0 mmol, prepared according to Thibault, C. et al. Org. Lett. 2003, 5, 5023) and 2-fluoro-4-nitrophenol (706 mg, 4.5 mmol), and N,N-diisopropylethylamine (580 mg, 4.5 mmol) in 1-methyl-2-prolidinone (NMP) (3 mL) was heated at 200° C. under microwave irradiation for 1.0 h. The mixture was diluted with ethyl acetate (150 mL), washed with sat. aq. KH2PO4 solution, and Na2CO3 (aq. 1 M), dried over Na2SO4. The product was purified by flash column chromatography (silica gel, eluting with CH2Cl2 to 30% EtOAc/CH2Cl2) to afford a brown solid (350 mg, 43%). MS(ESI+) m/z 274 (M+H)+.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 3.0 mmol, 457 mg | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | 2-fluoro-4-nitrophenol | 4.5 mmol, 706 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | N,N-diisopropylethylamine | 4.5 mmol, 580 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-Fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine | 350 mg, 43% | FC1=C(OC2=C3C(=NC=C2)NC=C3)C=CC(=C1)[N+](=O)[O-] | C13H8FN3O3
